US04943591
(i) 1-[2-[(5-Bromopentyl)oxy]ethyl]-4-methoxybenzene
A mixture of 4-methoxybenzeneethanol (7.0 g), 1,5-dibromopentane (20 ml), 50% aqueous sodium hydroxide (30 ml) and tetrabutylammonium bisulphate (1 g) was stirred at room temperature overnight, water (100 ml) was added and the mixture was extracted with ER (2×100 ml). The organic extracts were washed with water and brine, dried and concentrated in vacuo to give an oil which was purified by FCC eluting with hexane→hexane-ER (9:1) to give the title compound as a colourless liquid (10.5 g). T.l.c. hexane-ER (9:1) Rf 0.28.

reactant | 4-methoxybenzeneethanol | 7.0 g | COC1=CC=C(C=C1)CCO | C9H12O2
reactant | 1,5-dibromopentane | 20 ml | BrCCCCCBr | C5H10Br2
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bisulphate | 1 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 ml | O | H2O
product | 1-[2-[(5-Bromopentyl)oxy]ethyl]-4-methoxybenzene | 10.5 g | BrCCCCCOCCC1=CC=C(C=C1)OC | C14H21BrO2
